US07608622B2
5-(3-Benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-5-yl)-2-methoxybenzoic acid (Compound 23)
To a solution of 5-(3-Benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-5-yl)-2-methoxybenzaldehyde (296 mg, 0.82 mmol) in t-BuOH (18.2 mL) was sequentially added saturated aqueous NaH2PO4 solution (4.1 mL), 2-methyl-2-butene (2M in THF, 3.92 mL) and NaClO2 (114.8 mg). The mixture was stirred at room temperature for one hour, and then concentrated under reduced pressure. The residue thus obtained was purified by column chromatography [silica gel; MeOH/DCM (1:9)] to give the product as white powder (244 mg, 65%). 1H NMR (400 MHz, DMSO): δ 8.44 (s, 1H), 8.19 (s, 1H), 8.08 (d, J=9.2 Hz, 1H), 7.40-7.26 (m, 5H), 7.18 (d, J=8.8 Hz, 1H), 5.05 (s, 2H), 3.84 (s, 3H). MS: 377.0 (M+H).

reactant | 5-(3-Benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-5-yl)-2-methoxybenzaldehyde | 0.82 mmol, 296 mg | C(C1=CC=CC=C1)N1C(NC2=NC=C(N=C21)C=2C=CC(=C(C=O)C2)OC)=O | C20H16N4O3
reactant | 2-methyl-2-butene | 2M, 3.92 mL | CC(C)=CC | C5H10
reactant | NaClO2 | 114.8 mg | [O-]Cl=O.[Na+]
solvent | t-BuOH | 18.2 mL | CC(C)(C)O | C4H10O
product | 5-(3-Benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyrazin-5-yl)-2-methoxybenzoic acid | 244 mg, 65% | C(C1=CC=CC=C1)N1C(NC2=NC=C(N=C21)C=2C=CC(=C(C(=O)O)C2)OC)=O | C20H16N4O4
